US07169921B2
(i) 3-(7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propionamide
Triethylamine (3.60 g, 35.7 mmol) was added slowly to a solution of 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydrochloride (see Preparation B(iv) above; 5 g, 17 mmol) in ethanol (50 mL). Acrylamide (1.34 g, 18 mmol) was added to this mixture, which was then heated at reflux for 7 hours. The reaction mixture was then concentrated under reduced pressure. Water (50 mL) and sodium hydroxide (1 M, 150 mL) were added to the residue and the mixture extracted with ethyl acetate (2×200 mL). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a colourless solid. This was recrystallised from ethyl acetate (50 mL) to give the sub-title compound (3.80 g, 76%).

reactant | Triethylamine | 35.7 mmol, 3.60 g | C(C)N(CC)CC | C6H15N
reactant | 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydrochloride | 17 mmol, 5 g | Cl.Cl.C(C1=CC=CC=C1)N1CC2CNCC(C1)O2
reactant | Acrylamide | 18 mmol, 1.34 g | C(C=C)(=O)N | C3H5NO
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propionamide | 3.80 g, 76% | C(C1=CC=CC=C1)N1CC2CN(CC(C1)O2)CCC(=O)N | C16H23N3O2
